US04410520
3-(1-carboxy-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one is alkylated with bromoacetonitrile in dimethylformamide solution in the presence of sodium hydride to yield after work-up, 3-(1-carboxy-3-phenylpropylamino)-1-cyanomethyl-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one, used directly in the next step.

reactant | 3-(1-carboxy-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one | C(=O)(O)C(CCC1=CC=CC=C1)NC1C(NC2=C(CC1)C=CC=C2)=O | C20H22N2O3
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(1-carboxy-3-phenylpropylamino)-1-cyanomethyl-2,3,4,5-tetrahydro-1H-1-benzazepin-2-one | C(=O)(O)C(CCC1=CC=CC=C1)NC1C(N(C2=C(CC1)C=CC=C2)CC#N)=O | C22H23N3O3
